US07851463B2
46.1 3-Hydroxy-azetidine-1-carboxylic acid tert-butyl ester
To a degassed solution of 1-benzhydryl-azetidin-3-ol (4.75 g, 19.84 mmol) in methanol (methanol) (150 ml) were added ammonium formate (8.76 g, 138.91 mmol), 10% Pd/C (450 mg) and Boc2O (di-tert-butyl dicarbonate) (13 g, 59.56 mmol). The resulting suspension was heated to reflux under N2 for 1 h. It was then cooled down to room temperature, filtered through a short pad of celite and concentrated. The residue was dissolved in CH2Cl2 and washed with water. The organic layer was dried (Na2SO4) and evaporated. The raw substance was chromatographied on silica gel (heptane:ethyl acetate(ethyl acetate), 1:1) to afford the title compound (3.30 g, 96%) as white crystals.

reactant | 1-benzhydryl-azetidin-3-ol | 19.84 mmol, 4.75 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
reactant | ammonium formate | 138.91 mmol, 8.76 g | C(=O)[O-].[NH4+]
reactant | Boc2O | 59.56 mmol, 13 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 150 ml | CO | CH4O
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | 3-Hydroxy-azetidine-1-carboxylic acid tert-butyl ester | 3.30 g, 96% | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
